US05316768
Emodin anthrone is dimerized to give the 10,10'-coupled bianthrones by reacting emodin anthrone with ferric chloride (FeCl3) in ethanol, as described in Kinget, R., Planta. Med., vol. 15, pp. 233-39 (1967), which is also incorporated herein by specific reference. This reaction results in two diastereomers, the meso and the dl-pair. These compounds are readily separated on reverse phase high pressure liquid chromatography ("HPLC"). Subsequent oxidation of the bianthrones with oxygen in methanol containing triethylamine produces protohypericin, which is converted into hypericin upon exposure to sunlight. Alternatively air oxidation of the bianthrones in hot ammonium hydroxide and exposure to sunlight give rise to hypericin. The resulting compounds are characterized by HPLC, thin layer chromatography ("TLC"), and ultraviolet/visual spectrometry.

reactant | emodin anthrone | CC1=CC2=C(C(=C1)O)C(=O)C3=C(C=C(C=C3O)O)C2 | C15H12O4
solvent | ethanol | C(C)O | C2H6O
product | protohypericin | CC1=CC=2C3=C4C=5C=C(C=C(C5C(=O)C=6C4=C(C(=CC6O)O)C=7C3=C(C(=CC7O)O)C(=O)C2C(=C1)O)O)C | C30H18O8
